Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
___ exchange ___

 
History of Present Illness:
___ F with metastatic cervical cancer c/b hydro s/p PCN on 
right
and stent on left, failed first line carbotaxel now on pembro,
hypothyroidism, presented to clinic today for C3 of 
pembrolizumab
and found to have ___ and worsening hydronephrosis.

History was obtained with telephone interpreter services. Her
daughter was also present. 

She reports that she is currently hungry, has not eaten all day,
but otherwise has been eating and drinking ok. She is also 
having
her usual back pain because she has not been able to take her
pain pills today. Her pain is near her kidneys and her lower
back. She reports fevers but says that it is because she did not
take her morphine, so there may have been a miscommunication. 
She
reports urinating frequent, has been using diapers for a couple
of months now. She says she did not feel any worse today than
usual. Has vomiting every morning since last chemo, no new
changes. No abdominal pain. No diarrhea. Has BM every ___ days.
Has been taking all her meds except for today. She reports she
had the bag placed on her nephrostomy in clinic today. She
denies, HA, dizziness, CP, SOB, ___ edema. 

In clinic, pre-pembro labs revealed Cr 2.1 from 0.8. 

Vitals: temp 98.1, 120/67, HR 105, O2 sat 100% RA

The patient received 1.5L fluids, and urgent US ordered which
showed significant worsening of hydronephrosis bilaterally with
concern for blooy debri or possible pus. ___ was called and per
their recs placed bag on PCN, draining 500cc fluid, UA/CX was
collected, and she will be admitted and seen by their team. 

 
Past Medical History:
None
 
Social History:
___
Family History:
Unremarkable
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
V: 99PO 118 / 71R Manual Sitting 89 18 100 ra 
General: NAD, comfortable and pleasant, thin
Neuro: AOx3, no focal deficits, no asterixis
HEENT: no scleral icterus or conjunctival injection, MMM
CV: no JVD, RRR, no MRG
Resp: effort normal, CTAB
Abdomen: non-tender, no rebound tenderness, no organomegaly
Right PCN tube with bag attached, cloudy yellow urine
Extremities: warm, cap refill<1s, 2+DP, no ___ edema
Lymph nodes: absent lymphadenopathy
Skin: no wounds

DISCHARGE PHYSICAL EXAM:
========================
VS: 24 HR Data (last updated ___ @ 255)
    Temp: 98.2 (Tm 98.5), BP: 115/71 (106-118/60-71), HR: 96
(86-96), RR: 18 (___), O2 sat: 94% (94-98), O2 delivery: Ra  
General: NAD, comfortable and pleasant, thin
Neuro: AOx3, no focal deficits, no asterixis
HEENT: no scleral icterus or conjunctival injection, MMM
CV: no JVD, RRR, no MRG
Resp: effort normal, CTAB
Abdomen: non-tender, no rebound tenderness, no organomegaly
Right PCNU capped. 
Extremities: warm, cap refill<1s, 2+DP, no ___ edema
Lymph nodes: absent lymphadenopathy
Skin: no wounds
Otherwise unchanged.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 06:00AM BLOOD WBC-12.5* RBC-2.79* Hgb-7.2* Hct-23.9* 
MCV-86 MCH-25.8* MCHC-30.1* RDW-18.9* RDWSD-59.1* Plt ___
___ 06:00AM BLOOD ___ PTT-25.0 ___
___ 07:15PM BLOOD Glucose-80 UreaN-19 Creat-1.7* Na-142 
K-5.6* Cl-102 HCO3-26 AnGap-14
___ 07:15PM BLOOD Calcium-9.4 Phos-3.6 Mg-2.1

PERTINENT INTERMITTENT LABS:
============================
___ 06:00AM BLOOD Ret Aut-1.8 Abs Ret-0.05
___ 08:57AM BLOOD ALT-8 AST-11 AlkPhos-178* TotBili-<0.2
___ 06:00AM BLOOD ALT-7 AST-11 LD(LDH)-142 AlkPhos-145* 
TotBili-<0.2
___ 08:57AM BLOOD Albumin-3.0* Calcium-9.4 Phos-3.2 Mg-1.9
___ 06:00AM BLOOD Hapto-601*
___ 08:57AM BLOOD TSH-4.8*
___ 08:57AM BLOOD Free T4-1.2
___ 08:57AM BLOOD Cortsol-33.7*

MICROBIOLOGY:
==============

 
 
___ 4:00 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMIKACIN--------------   <=2 S
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------     8 I
TRIMETHOPRIM/SULFA----  =>16 R

Radiology
=========

___ CT A/P without contrast

IMPRESSION: 
  
  
1. Evaluation is limited secondary to lack of intravenous 
contrast.  Within 
that limitation the large pelvic mass appears slightly larger in 
comparison to 
the prior study.  There is suspected involvement of the 
posterior bladder wall 
and anterior margin of the rectosigmoid colon. 
2. Anasarca.  Interval development of mesenteric edema and small 
volume 
intra-abdominal ascites is suspicious for possible additional 
disease 
involvement. 
3. Destructive lytic lesion in the posterior right acetabulum is 
worsened from 
prior with a Right pelvic sidewall soft tissue component in 
continuity with 
the large pelvic mass. 
4. Persistent enlarged and abnormal endometrial cavity is 
slightly smaller 
from prior. 
5. There is unchanged severe right hydroureteronephrosis status 
post 
conversion of a right PCN to a PCNU which appears appropriately 
positioned.  
Moderate left hydroureteronephrosis appears slightly worsened 
from prior 
however this may be related to bladder distension. 
6. Bilateral obstructive hydrosalpinges as above. 
7. Retroperitoneal and pelvic lymphadenopathy as described 
above. 
8. Please refer to separate report of CT chest performed on the 
same day for 
description of the thoracic findings. 
  
NOTIFICATION:   The findings were discussed with ___, 
M.D. by 
___, M.D. on the telephone on ___ at 11:18 
am, 5 minutes 
after discovery of the findings. 

___ CT chest without contrast

1. Limited study secondary to significant respiratory motion 
artifact. 
2. Mixed interval response of the patient's known pulmonary 
metastatic 
lesions.  A lesion in the left upper lobe has decreased in size 
however a 
lesion in the posterior segment left lower lobe is larger from 
prior.  
Additional lesions appear grossly stable on limited assessment. 
3. Interval increase in size of two left axillary lymph nodes 
measuring up to 9 mm, previously 5 mm. 
4. Trace bilateral pleural effusions.  Anasarca. 
5. Bibasilar atelectasis with associated hypoventilatory 
changes. 
6. Findings compatible with anemia. 
7. Please refer to the separately dictated CT abdomen and pelvis 
for full 
description of the sub diaphragmatic findings. 

___ urinary cath replacement 
 
FINDINGS: 

1. Right antegrade nephrostogram shows distal ureteral 
obstruction. 
2. Appropriate final position of Right 8 ___ by 26 cm tube. 

DISCHARGE LABS:
===============
___ 06:37AM BLOOD WBC-13.2* RBC-3.03* Hgb-7.9* Hct-25.0* 
MCV-83 MCH-26.1 MCHC-31.6* RDW-18.0* RDWSD-53.4* Plt ___
___ 06:37AM BLOOD Glucose-90 UreaN-17 Creat-1.6* Na-140 
K-5.2 Cl-99 HCO3-30 AnGap-___ F with metastatic cervical cancer c/b hydro s/p PCN on 
right and stent on left, hypothyroidism, presented to clinic 
___ for C3 of pembrolizumab and found to have ___, worsening 
hydronephrosis, UTI, s/p PCNU exchange and IV abx for UTI, 
transitioned to home with hospice.

ACUTE ISSUES:
=============
#Goals of care 
After discovering more progression of disease on staging CT 
scan, outpatient team spoke with patient and family and decided 
to pursue hospice care, as no further treatement options 
avialble. Patient was also confirmed DNR/DNI and MOLST filled 
out. 

# ___ - IMPROVED
# Hydronephrosis
Presented with ___ with severe hydro on US. Suspect this is 
related to the clamped PCN after conversion to a PCNU on ___ by ___ and possible disease progression given more hydro on 
left, as well as hypovolemia from vomiting. Improved with fluid 
and uncapping PCNU. Had PCNU exchange ___, re-capped ___. Cr 
improved to 1.6, likely new baseline iso irreversible damage 
from severe hydro. 

#UTI
UA from PCNU bag was positive for infection, started on CTX, 
grew out E coli sensitive to CTX. Treating as complicated UTI 
with total 10 days abx, transitioned to cefpodoxime to finish 
10d course. (___). 

#N/V
Chronic issue, controlled with Zofran/Compazine PRN. Started on 
olanzapine 2.5mg QHS with improvement in sleep and morning 
nausea. 

# Stage IVb (metastatic) Cervical Squamous Cell Carcinoma -
PROGRESSSION. 
Non-con CT scan this admission with evidence of disease 
progression. Discussion with primary team as above. Continued on 
home pain regimen. Added zyprexa at night for nausea. Goals of 
care discussed, as above, with transition to DNR/DNI and MOLST 
form filled out.

 
#Leukocytosis
Cancer vs infection. Improved. WBC 13.2 on discharge. 

# Hypothyroidism
Recently adjusted dose. TSH 4.8
-continued LT4 50 mcg/d 

>30 min were spent in discharge coordination and care

Transitional Issues
===================
[] Cefpodoxime 200mg 1x daily through ___ for complicated UTI
[] Started on 2.5mg olanzapine QHS, improved AM nausea with this 
regimen
[] Continue to discuss goals of care, consider changing MOLST to 
do not hospitalize if patient willing to discuss this further
[] PCNU capped, ___ will schedule for regular exchanges by ___ 
every two to 3 months.

#HCP/CONTACT:  ___ (daughter) ___
#Code: DNR/DNI

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 50 mcg PO DAILY 
2. Morphine SR (MS ___ 60 mg PO Q8H 
3. OxyCODONE (Immediate Release) 15 mg PO Q4H:PRN Pain - 
Moderate 
4. Senna 17.2 mg PO BID 
5. Docusate Sodium 200 mg PO BID 
6. Polyethylene Glycol 17 g PO DAILY 
7. Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - First 
Line 
8. Ondansetron ODT 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 

 
Discharge Medications:
1.  Cefpodoxime Proxetil 200 mg PO/NG Q24H Duration: 10 Days 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth once a day Disp #*3 
Tablet Refills:*0 
2.  OLANZapine 2.5 mg PO QHS 
RX *olanzapine 2.5 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
3.  Levothyroxine Sodium 50 mcg PO DAILY  
4.  Morphine SR (MS ___ 60 mg PO Q8H 
RX *morphine [MS ___ 60 mg 1 tablet(s) by mouth every eight 
(8) hours Disp #*12 Tablet Refills:*0 
5.  Ondansetron ODT 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
 
6.  OxyCODONE (Immediate Release) 15 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 15 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*24 Tablet Refills:*0 
7.  Polyethylene Glycol 17 g PO DAILY  
8.  Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - First 
Line  
9.  Senna 17.2 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary
========
Acute Kidney Injury
Hydronephrosis
Complicated Urinary Tract Infection

Secondary
=========
Metastatic cervical cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
 
It was a pleasure caring for ___ at ___ 
___.  
 
WHY WAS I IN THE HOSPITAL?  
 - ___ had problems with your kidneys
 
WHAT HAPPENED TO ME IN THE HOSPITAL?  
- ___ had your kidney tube exchanged for a new one and your 
kidney function improved

- ___ started taking antibiotics for a urinary tract infection. 

- We had a discussion about your goals and what is most 
important to ___ decided going home with hospice services 
was what fit best for ___ filled out a "MOLST" form which 
specified that ___ would not want attempts at resuscitation to 
be performed (chest compressions, electrical shocks, breathing 
tubes). 
 
WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
 - Continue to take all your medicines and keep your 
appointments.  
 
We wish ___ the best!  
 
Sincerely,  
Your ___ Team  
 
Followup Instructions:
___